US05436359
Nicotinoyl chloride hydrochloride (2 g) was added under ice-cooling to a mixture of 1-tert-butoxycarbonyloxy-2,3-dimethoxy-4-hydroxy-6-(10-trityloxydecyl)-5-methylbenzene (10 g), triethylamine (2 g) and dichloromethane (30 ml), and the resulting mixture was stirred at room temperature for 1 hour. The reaction mixture was washed with water followed by an aqueous solution of sodium bicarbonate, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to column chromatography on silica gel and eluted with ethyl acetate/hexane (1:1) to obtain 1-tert-butoxycarbonyloxy-2,3-dimethoxy-6-(10-trityloxydecyl)-5-methyl-4-nicotinoyloxybenzene (5.1 g). This compound was dissolved in methanol (35 ml). Concentrated hydrochloric acid (2 ml) was added, and the mixture was heated under reflux for 30 minutes. The mixture was concentrated under reduced pressure. Ether was added to the residue which was then separated by filtration to obtain the desired compound (2.9 g).

reactant | Nicotinoyl chloride hydrochloride | 2 g | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | 1-tert-butoxycarbonyloxy-2,3-dimethoxy-4-hydroxy-6-(10-trityloxydecyl)-5-methylbenzene | 10 g | C(C)(C)(C)OC(=O)OC1=C(C(=C(C(=C1CCCCCCCCCCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C)O)OC)OC | C43H54O7
reactant | triethylamine | 2 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 1-tert-butoxycarbonyloxy-2,3-dimethoxy-6-(10-trityloxydecyl)-5-methyl-4-nicotinoyloxybenzene | 5.1 g | C(C)(C)(C)OC(=O)OC1=C(C(=C(C(=C1CCCCCCCCCCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C)OC(C1=CN=CC=C1)=O)OC)OC | C49H57NO8
